2111-05-25 07:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2111-5-24**] 08:00 PM
 BLOOD CULTURED - At [**2111-5-24**] 08:47 PM
 NASAL SWAB - At [**2111-5-24**] 08:47 PM
 SPUTUM CULTURE - At [**2111-5-24**] 08:58 PM
 EKG - At [**2111-5-24**] 09:30 PM
   admission EKG
 ARTERIAL LINE - START [**2111-5-25**] 05:06 AM
 BLOOD CULTURED - At [**2111-5-25**] 05:17 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2111-5-24**] 09:55 PM
   Ceftazidime - [**2111-5-25**] 12:10 AM
   Infusions:
   Fentanyl (Concentrate) - 200 mcg/hour
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2111-5-24**] 09:04 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-5-25**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 81 (81 - 108) bpm
   BP: 107/59(76) {107/59(76) - 119/72(89)} mmHg
   RR: 31 (28 - 37) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                    897 mL
                                                                  1,119 mL
   PO:
           TF:
   IVF:
                                                                    897 mL
                                                                    580 mL
   Blood products:
   539 mL
   Total out:
                                                                    375 mL
                                                                    615 mL
   Urine:
                                                                    375 mL
                                                                    615 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    522 mL
                                                                    505 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: APRV
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   Plateau: 32 cmH2O
   SpO2: 97%
   ABG: 7.44/38/303/25/2
   Ve: 16.5 L/min
   PaO2 / FiO2: 505
   Physical Examination
   General: elderly obese man, intubated
   HEENT: Sclera anicteric, ET in place
   Neck: supple, JVP not assessible due to body habitus
   Lungs: Coarse breath sounds bilaterally, no wheezes
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, obese, non-distended, rare bowel sounds, no
   organomegaly
   Ext: Warm, well perfused, 1+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   180 K/uL
   8.1 g/dL
   164 mg/dL
   0.6 mg/dL
   25 mEq/L
   4.2 mEq/L
   9 mg/dL
   102 mEq/L
   139 mEq/L
   23.7 %
   4.1 K/uL
        [image002.jpg]
                             [**2111-5-24**]  08:15 PM
                             [**2111-5-24**]  08:41 PM
                             [**2111-5-25**]  01:17 AM
                             [**2111-5-25**]  03:49 AM
                             [**2111-5-25**]  04:00 AM
                             [**2111-5-25**]  05:15 AM
   WBC
   6.0
   3.8
   4.1
   Hct
   28.0
   23.6
   23.7
   Plt
   [**Telephone/Fax (3) 6652**]
   Cr
   0.6
   0.6
   0.6
   TropT
   <0.01
   TCO2
   25
   28
   28
   27
   Glucose
   131
   160
   164
   Other labs: PT / PTT / INR:24.8/32.8/2.4, CK / CKMB /
   Troponin-T:32//<0.01, ALT / AST:51/57, Alk Phos / T Bili:80/1.8,
   Differential-Neuts:88.9 %, Lymph:5.8 %, Mono:3.5 %, Eos:1.6 %, Lactic
   Acid:1.1 mmol/L, LDH:779 IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
   Mr. [**Known lastname 5979**] is a 57-year-old man with h/o ILD, recent admission for
   alveolar hemorrhage, also h/o afib, CAD, DM2, HTN who was transferred
   from [**Location (un) 206**] for hypoxia. He presented to OSH with hypoxia, was
   intubated.
   # Respiratory failure: with hypoxia requiring intubation. Hemoptysis
   raises concern for recurrent or persistent alveolar hemorrhage that was
   diagnosed from last admission. Also likely due to worsening of ILD
   despite prednisone and cyclophosphamide. Productive coughs also raises
   concern for pneumonia.
   - continue ventilatory support; wean sedation, wean settings SBT and
   extubate if tolerated
   - methylpred 1 gm q24h
   - empiric vanc and ceftaz; d/c if negative sputum/blood cx
   - consider chest CT and bronch if CT positive for diagnosis
   # Afib: currently in sinus rhhtym.
   - hold warfarin given hemoptysis
   - hold sotalol 160 mg [**Hospital1 **] given recent hypotensive episodes with
   sedation; will restart once BP more stable
   # DM2:
   - insulin s.s.
   # FEN: NPO for now, replete electrolytes
   # Prophylaxis: pneumoboots
   # Access: peripherals
   # Code: FULL
   # Communication: [**Name (NI) 6642**] son [**Name (NI) **] [**Telephone/Fax (1) 6643**] (c) [**Telephone/Fax (1) 6644**] (h);
   co-HCP wife [**Name (NI) 487**] [**Telephone/Fax (1) 6645**] (c); son [**Name (NI) 6646**] [**Telephone/Fax (1) 6647**] (c)
   # Disposition: ICU care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2111-5-24**] 08:01 PM
   20 Gauge - [**2111-5-24**] 08:02 PM
   18 Gauge - [**2111-5-24**] 08:30 PM
   Arterial Line - [**2111-5-25**] 05:06 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2111-05-25 09:09:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 NASAL SWAB - At [**2111-5-24**] 08:47 PM
 BLOOD CULTURED - At [**2111-5-24**] 08:47 PM
 SPUTUM CULTURE - At [**2111-5-24**] 08:58 PM
 ARTERIAL LINE - START [**2111-5-25**] 05:06 AM
 BLOOD CULTURED - At [**2111-5-25**] 05:17 AM
no hemoptysis or blood on suctioning
   Patient unable to provide history: Sedated, Unresponsive, intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftazidime - [**2111-5-25**] 08:00 AM
   Vancomycin - [**2111-5-25**] 08:00 AM
   Infusions:
   Fentanyl (Concentrate) - 190 mcg/hour
   Other ICU medications:
   Fentanyl - [**2111-5-24**] 09:04 PM
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-5-25**] 09:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 74 (74 - 108) bpm
   BP: 111/62(80) {107/59(76) - 119/72(89)} mmHg
   RR: 31 (28 - 37) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                    897 mL
                                                                  1,488 mL
   PO:
           TF:
   IVF:
                                                                    897 mL
                                                                    949 mL
   Blood products:
   539 mL
   Total out:
                                                                    375 mL
                                                                    750 mL
   Urine:
                                                                    375 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    522 mL
                                                                    738 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: APRV
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 37 cmH2O
   Plateau: 32 cmH2O
   SpO2: 99%
   ABG: 7.44/38/303/25/2
   Ve: 14.4 L/min
   PaO2 / FiO2: 505
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   180 K/uL
   164 mg/dL
   0.6 mg/dL
   25 mEq/L
   4.2 mEq/L
   9 mg/dL
   102 mEq/L
   139 mEq/L
   23.7 %
   4.1 K/uL
        [image002.jpg]
                             [**2111-5-24**]  08:15 PM
                             [**2111-5-24**]  08:41 PM
                             [**2111-5-25**]  01:17 AM
                             [**2111-5-25**]  03:49 AM
                             [**2111-5-25**]  04:00 AM
                             [**2111-5-25**]  05:15 AM
   WBC
   6.0
   3.8
   4.1
   Hct
   28.0
   23.6
   23.7
   Plt
   [**Telephone/Fax (3) 6652**]
   Cr
   0.6
   0.6
   0.6
   TropT
   <0.01
   TCO2
   25
   28
   28
   27
   Glucose
   131
   160
   164
   Other labs: PT / PTT / INR:24.8/32.8/2.4, CK / CKMB /
   Troponin-T:32//<0.01, ALT / AST:51/57, Alk Phos / T Bili:80/1.8,
   Differential-Neuts:88.9 %, Lymph:5.8 %, Mono:3.5 %, Eos:1.6 %, Lactic
   Acid:1.1 mmol/L, LDH:779 IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.3
   mg/dL
   Imaging: CXR - infiltrates now largely resolved on this morning film
   Assessment and Plan
   57M h/o presumed ILD, recent admission for alveolar hemorrhage
   syndrome, also h/o afib, CAD, DM2, HTN was transferred from [**Location (un) 6648**] hospital in NH last evening for management of hypoxemic
   respiratory failure.  Pt was d/c on [**5-1**] from [**Hospital1 5**] admission to rehab
   where he was until a week and a half ago.  Over last several days at
   home developed progressive DOE and at rest with increasing oxygen
   requirement (inc to 8-10L via NC)   At ED in OSH initial sats in 70
   placed on NRB w/ sats in mid 90
s.  Intubated prior to transfer.  Of
   note, wife told son that pt had been having some hemoptysis last
   several days.  Sxn here has not revealed any bloody secretions.
   Hypoxemic resp failure
   -progressive over last several days prior to admission
   -presentation/onset similar to presentation at last admission
   -reasonable to restart on solumedrol empirically since seemed to lead
   to improvement last admission
   -significantly improved cxr this morning - presumed due to +pressure
   vent
   -CXR without significant focality and no bloody secretions on
   suctioning
   -CT of chest to better visualize parenchyma
 assess for
   focality/region where might benefit from FOB/BAL.  Right now, no clear
   target
   -presumed alveolar hemorrhage vs. acute progression of ILD vs. PE
   (initial diffuse infilt responsive to PPV makes less likely as does
   anticoag)
   -send bcx, scx
   -empiric abx pending cx data
    Afib
   -currently in NSR
   -hold anticoag
   Anticoag
   -hold
   -reverse anticoag if frank hemoptysis, hct drop or drop sats
   - iv vit K low dose to bring INR down at least to 2-3 range if not near
   normal if evidence of bleeding
   DM2:
   - SSRI
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2111-5-24**] 08:01 PM
   20 Gauge - [**2111-5-24**] 08:02 PM
   18 Gauge - [**2111-5-24**] 08:30 PM
   Arterial Line - [**2111-5-25**] 05:06 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2111-05-26 07:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Mr. [**Known lastname 5979**] is a 57-year-old man with h/o ILD,
   recent admission for alveolar hemorrhage, also h/o afib, CAD, DM2, HTN
   who was transferred from [**Location (un) 206**] for hypoxia. He presented to OSH
   with hypoxia, was intubated.
   24 Hour Events:
   [**5-25**]
   - CT chest performed -> Largely unchanged from prior except for
   increase in ground glass opacities in LUL. No gross infiltrate.
   - Restarted PCP prophylaxis and cyclophosphamide. Held antibiotics
   given lack of infiltrate.
   - APRV -> high PEEP slowly weaned, E time increased and I time
   decreased -> switched to AC
   - PM hct stable.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftazidime - [**2111-5-25**] 08:00 AM
   Vancomycin - [**2111-5-25**] 08:00 AM
   Infusions:
   Fentanyl (Concentrate) - 200 mcg/hour
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-5-26**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.8
C (98.3
   HR: 81 (66 - 102) bpm
   BP: 121/64(85) {111/55(75) - 142/77(100)} mmHg
   RR: 19 (13 - 31) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  2,379 mL
                                                                    485 mL
   PO:
             TF:
   IVF:
                                                                  1,735 mL
                                                                    485 mL
   Blood products:
                                                                    539 mL
   Total out:
                                                                  1,730 mL
                                                                    365 mL
   Urine:
                                                                  1,730 mL
                                                                    365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    649 mL
                                                                    120 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 7
   PEEP: 16 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 27 cmH2O
   Compliance: 55 cmH2O/mL
   SpO2: 94%
   ABG: 7.41/46/109/24/4
   Ve: 10.8 L/min
   PaO2 / FiO2: 218
   Physical Examination
   General: Sedated, intubated
   HEENT: NC/AT; pupils small, but equally round and reactive to light,
   sclera anicteric
   Neck: Supple, no LAD
   Lungs: CTAB
   CV: S1, S2 nl, no m/r/g appreciated
   Abdomen: Soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro: Limited due to sedation
   Skin: No rash, no jaundice
   Labs / Radiology
   211 K/uL
   8.0 g/dL
   189 mg/dL
   0.5 mg/dL
   24 mEq/L
   4.0 mEq/L
   9 mg/dL
   103 mEq/L
   139 mEq/L
   23.6 %
   4.4 K/uL
        [image002.jpg]
                             [**2111-5-25**]  10:03 AM
                             [**2111-5-25**]  03:34 PM
                             [**2111-5-25**]  04:45 PM
                             [**2111-5-25**]  06:05 PM
                             [**2111-5-25**]  06:50 PM
                             [**2111-5-25**]  08:14 PM
                             [**2111-5-25**]  08:29 PM
                             [**2111-5-26**]  01:33 AM
                             [**2111-5-26**]  02:30 AM
                             [**2111-5-26**]  02:46 AM
   WBC
   4.4
   Hct
   22.2
   22.5
   23.6
   Plt
   211
   Cr
   0.5
   TCO2
   25
   27
   25
   28
   28
   28
   30
   Glucose
   189
   Other labs: PT / PTT / INR:17.2/32.8/1.6, CK / CKMB /
   Troponin-T:32//<0.01, ALT / AST:51/57, Alk Phos / T Bili:80/1.8,
   Differential-Neuts:88.9 %, Lymph:5.8 %, Mono:3.5 %, Eos:1.6 %, Lactic
   Acid:1.1 mmol/L, LDH:779 IU/L, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:2.7
   mg/dL
   Assessment and Plan
   Mr. [**Known lastname 5979**] is a 57-year-old man with h/o ILD, recent admission for
   alveolar hemorrhage occurring after afib ablation, CAD, DM2, HTN who
   was transferred from [**Location (un) 206**] for hypoxia. He presented to OSH
   with hypoxia, was intubated.
   # Respiratory failure/Interstitial lung disease:  History of ILD and
   followed by Dr. [**Last Name (STitle) 104**].  Was treated with prednisone for ILD starting
   in [**2111-1-1**] and did have radiological and clinical improvement, but
   admitted with alveolar hemorrhage in [**2111-4-1**], thought to be
   secondary to vasculitis (though ANCA and [**Doctor First Name **] negative), resulting in
   course of prednisone and cyclophosphamide.   Now admitted again for
   dyspnea in setting of hemoptysis and productive cough per report.  Also
   re-started on coumadin in interim by cardiologist for afib.  Chest CT
   from [**5-24**] shows largely stable disease, diffuse ground glass opacities
   bilaterally.  Intubated for hypoxia and dyspnea.  Previously on APRV
   but now on AC.
   - bronch to eval for infectious disease, alveolar hemorrhage
   - wean sedation as tolerated, consider SBT tomorrow
   - reduce methyprednisolone dose to 60 mg IV qd
   - restart vanc/ceftaz after bronch
   - poor candidate for surgical biopsy
   # Afib: currently in sinus rhythm, s/p recent ablation.
   - hold warfarin given hemoptysis
   - restart sotalol 160 mg [**Hospital1 **]; initially held because of
   sedation-related hypoxia
   # DM2:
   - insulin s.s.
   # Spinal stenosis:  has caused significant debilitation per Dr.
   [**Last Name (STitle) 104**].
   - pain management as needed when extubated
   # Communication: [**Name (NI) 6642**] son [**Name (NI) **] [**Telephone/Fax (1) 6643**] (c) [**Telephone/Fax (1) 6644**] (h);
   co-HCP wife [**Name (NI) 487**] [**Telephone/Fax (1) 6645**] (c); son [**Name (NI) 6646**] [**Telephone/Fax (1) 6647**] (c)
   ICU Care
   Nutrition: tube feeds pending
   Glycemic Control:
   Lines:
   16 Gauge - [**2111-5-24**] 08:01 PM
   20 Gauge - [**2111-5-24**] 08:02 PM
   18 Gauge - [**2111-5-24**] 08:30 PM
   Arterial Line - [**2111-5-25**] 05:06 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2111-05-27 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2111-5-26**] 06:40 PM
   - bronched with BAL samples sent
   - restarted ceftaz, vanc after bronch
   - decreased steroid dose
   - restarted sotalol
   - spoke with dr. [**Last Name (STitle) **] about patient; updates placed in metavision
   progress note
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2111-5-26**] 08:19 PM
   Ceftazidime - [**2111-5-27**] 06:04 AM
   Infusions:
   Fentanyl (Concentrate) - 200 mcg/hour
   Other ICU medications:
   Fentanyl - [**2111-5-26**] 06:47 PM
   Propofol - [**2111-5-26**] 06:48 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-5-27**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.9
C (98.4
   HR: 66 (63 - 92) bpm
   BP: 127/62(85) {117/58(79) - 133/73(94)} mmHg
   RR: 20 (13 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,822 mL
                                                                    482 mL
   PO:
             TF:
   IVF:
                                                                  1,732 mL
                                                                    482 mL
   Blood products:
   Total out:
                                                                  1,280 mL
                                                                    460 mL
   Urine:
                                                                  1,280 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    542 mL
                                                                     22 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 40 cmH2O
   Plateau: 28 cmH2O
   SpO2: 99%
   ABG: 7.43/43/220/26/4
   Ve: 10.1 L/min
   PaO2 / FiO2: 550
   Physical Examination
   General: elderly obese man, intubated
   HEENT: Sclera anicteric, ET in place
   Neck: supple, JVP not assessible due to body habitus
   Lungs: Coarse breath sounds bilaterally, no wheezes
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, obese, non-distended, rare bowel sounds, no
   organomegaly
   Ext: Warm, well perfused, 1+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   230 K/uL
   7.9 g/dL
   177 mg/dL
   0.5 mg/dL
   26 mEq/L
   4.4 mEq/L
   13 mg/dL
   103 mEq/L
   139 mEq/L
   23.4 %
   5.1 K/uL
        [image002.jpg]
                             [**2111-5-25**]  04:45 PM
                             [**2111-5-25**]  06:05 PM
                             [**2111-5-25**]  06:50 PM
                             [**2111-5-25**]  08:14 PM
                             [**2111-5-25**]  08:29 PM
                             [**2111-5-26**]  01:33 AM
                             [**2111-5-26**]  02:30 AM
                             [**2111-5-26**]  02:46 AM
                             [**2111-5-27**]  03:30 AM
                             [**2111-5-27**]  03:36 AM
   WBC
   4.4
   5.1
   Hct
   22.5
   23.6
   23.4
   Plt
   211
   230
   Cr
   0.5
   0.5
   TCO2
   27
   25
   28
   28
   28
   30
   29
   Glucose
   189
   177
   Other labs: PT / PTT / INR:17.2/32.8/1.6, CK / CKMB /
   Troponin-T:32//<0.01, ALT / AST:51/57, Alk Phos / T Bili:80/1.8,
   Differential-Neuts:88.9 %, Lymph:5.8 %, Mono:3.5 %, Eos:1.6 %, Lactic
   Acid:1.1 mmol/L, LDH:779 IU/L, Ca++:8.1 mg/dL, Mg++:2.5 mg/dL, PO4:2.5
   mg/dL
   BAL:
   WBC: 0
   RBC: 0
   Polys: 95
   Lymphs: 1
   Monos: 2
   Macro: 2
   Assessment and Plan
   Mr. [**Known lastname 5979**] is a 57-year-old man with h/o ILD, recent admission for
   alveolar hemorrhage occurring after afib ablation, CAD, DM2, HTN who
   was transferred from [**Location (un) 206**] for hypoxia. He presented to OSH
   with hypoxia, was intubated.
   # Respiratory failure/Interstitial lung disease:  presumed vasculitic
   ILD (NSIP) although this is not certain. Bronch done yesterday with
   gross evidence of bloody fluid.
   - HCT from BAL pnd
   - change Propofol to midaz, wean PEEP
   - reduce methyprednisolone dose to 60 mg IV qd starting tomorrow (s/p
   3x doses of 1g solumedrol)
   - on  vanc/ceftaz after bronch, continue until BAL cx negative
   - poor candidate for surgical biopsy
   # Afib: currently in sinus rhythm, s/p recent ablation. On sotalol.
   - hold warfarin given hemoptysis
   # DM2:
   - insulin s.s.
   # Spinal stenosis:  has caused significant debilitation per Dr.
   [**Last Name (STitle) 104**].
   - pain management as needed when extubated
   # Communication: [**Name (NI) 6642**] son [**Name (NI) **] [**Telephone/Fax (1) 6643**] (c) [**Telephone/Fax (1) 6644**] (h);
   co-HCP wife [**Name (NI) 487**] [**Telephone/Fax (1) 6645**] (c); son [**Name (NI) 6646**] [**Telephone/Fax (1) 6647**] (c)
   ICU Care
   Nutrition: Nutrition support c./s
   Glycemic Control:
   Lines:
   16 Gauge - [**2111-5-24**] 08:01 PM
   20 Gauge - [**2111-5-24**] 08:02 PM
   18 Gauge - [**2111-5-24**] 08:30 PM
   Arterial Line - [**2111-5-25**] 05:06 AM
   Prophylaxis:
   DVT: PNB
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2111-05-28 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Mr. [**Known lastname 5979**] is a 57-year-old man with h/o ILD,
   recent admission for alveolar hemorrhage occurring after afib ablation,
   CAD, DM2, HTN who was transferred from [**Location (un) 206**] for hypoxia. He
   presented to OSH with hypoxia, was intubated.
   24 Hour Events:
   - IR PICC in am
   - changed to midaz from propofol
   - BAL HCT<2
   - decreased peep
   - TF
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2111-5-27**] 08:00 PM
   Ceftazidime - [**2111-5-28**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Propofol - [**2111-5-27**] 10:00 AM
   Midazolam (Versed) - [**2111-5-28**] 03:00 AM
   Fentanyl - [**2111-5-28**] 03:00 AM
   Hydralazine - [**2111-5-28**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-5-28**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.1
C (97
   HR: 63 (58 - 78) bpm
   BP: 162/74(106) {128/62(84) - 169/79(112)} mmHg
   RR: 20 (18 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  2,374 mL
                                                                    427 mL
   PO:
             TF:
                                                                    243 mL
                                                                    141 mL
   IVF:
                                                                  1,901 mL
                                                                    286 mL
   Blood products:
   Total out:
                                                                  1,720 mL
                                                                    470 mL
   Urine:
                                                                  1,720 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    654 mL
                                                                    -43 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 26 cmH2O
   SpO2: 98%
   ABG: 7.43/46/141/26/5
   Ve: 11.1 L/min
   PaO2 / FiO2: 353
   Physical Examination
   General: elderly obese man, intubated
   HEENT: Sclera anicteric, ET in place
   Neck: supple, JVP not assessible due to body habitus
   Lungs: Coarse breath sounds bilaterally, no wheezes
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, obese, non-distended, rare bowel sounds, no
   organomegaly
   Ext: Warm, well perfused, 1+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   206 K/uL
   8.3 g/dL
   234 mg/dL
   0.5 mg/dL
   26 mEq/L
   4.4 mEq/L
   16 mg/dL
   103 mEq/L
   139 mEq/L
   24.7 %
   4.3 K/uL
        [image002.jpg]
                             [**2111-5-25**]  08:29 PM
                             [**2111-5-26**]  01:33 AM
                             [**2111-5-26**]  02:30 AM
                             [**2111-5-26**]  02:46 AM
                             [**2111-5-27**]  03:30 AM
                             [**2111-5-27**]  03:36 AM
                             [**2111-5-27**]  03:57 PM
                             [**2111-5-27**]  06:06 PM
                             [**2111-5-28**]  03:41 AM
                             [**2111-5-28**]  06:12 AM
   WBC
   4.4
   5.1
   4.3
   Hct
   23.6
   23.4
   24.7
   Plt
   [**Telephone/Fax (3) 6696**]
   Cr
   0.5
   0.5
   0.5
   TCO2
   28
   28
   30
   29
   31
   30
   32
   Glucose
   189
   177
   234
   Other labs: PT / PTT / INR:17.2/32.8/1.6, CK / CKMB /
   Troponin-T:32//<0.01, ALT / AST:51/57, Alk Phos / T Bili:80/1.8,
   Differential-Neuts:88.9 %, Lymph:5.8 %, Mono:3.5 %, Eos:1.6 %, Lactic
   Acid:1.1 mmol/L, LDH:779 IU/L, Ca++:8.4 mg/dL, Mg++:2.5 mg/dL, PO4:2.3
   mg/dL
   Assessment and Plan
   Mr. [**Known lastname 5979**] is a 57-year-old man with h/o ILD, recent admission for
   alveolar hemorrhage occurring after afib ablation, CAD, DM2, HTN who
   was transferred from [**Location (un) 206**] for hypoxia. He presented to OSH
   with hypoxia, was intubated.
   # Respiratory failure/Interstitial lung disease:  History of ILD and
   followed by Dr. [**Last Name (STitle) 104**].  Was treated with prednisone for ILD starting
   in [**2111-1-1**] and did have radiological and clinical improvement, but
   admitted with alveolar hemorrhage in [**2111-4-1**], thought to be
   secondary to vasculitis (though ANCA and [**Doctor First Name **] negative), resulting in
   course of prednisone and cyclophosphamide.   Now again with respiratory
   failure in setting of hemoptysis and productive cough per report.  Also
   re-started on coumadin in interim by cardiologist for afib.  Chest CT
   from [**5-24**] shows largely stable disease, diffuse ground glass opacities
   bilaterally.  Intubated for hypoxia and dyspnea.  Presumed vasculitic
   ILD (NSIP) although this is not certain.  Bronched on [**5-26**].  Hct from
   BAL < 2.
   - wean PEEP as tolerated (16->12)
   - cont methyprednisolone 100 mg IV qd (started [**5-28**]; previously
   received  3x doses of 1g solumedrol)
   - continue cyclophosphamide
   - on vanc/ceftaz after bronch, continue until BAL cx negative
   - poor candidate for surgical biopsy
   - f/u bcx from [**5-24**] (anaerobic bottle growing bacteria, aerobic bottle
   with no growth); likely contaminant
   # Afib: currently in sinus rhythm, s/p recent PVI ablation. On sotalol.
   - hold warfarin given hemoptysis
   # HTN: Will start captopril.
   # DM2:
   - insulin s.s.
   # Spinal stenosis:  has caused significant debilitation per Dr.
   [**Last Name (STitle) 104**].
   - pain management as needed when extubated
   # Communication: [**Name (NI) 6642**] son [**Name (NI) **] [**Telephone/Fax (1) 6643**] (c) [**Telephone/Fax (1) 6644**] (h);
   co-HCP wife [**Name (NI) 487**] [**Telephone/Fax (1) 6645**] (c); son [**Name (NI) 6646**] [**Telephone/Fax (1) 6647**] (c)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2111-5-25**] 05:06 AM
   20 Gauge - [**2111-5-27**] 08:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2111-05-29 06:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Mr. [**Known lastname 5979**] is a 57-year-old man with h/o ILD,
   recent admission for alveolar hemorrhage occurring after afib ablation,
   CAD, DM2, HTN who was transferred from [**Location (un) 206**] for hypoxia. He
   presented to OSH with hypoxia, was intubated.
   24 Hour Events:
 PICC LINE - START [**2111-5-28**] 03:30 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2111-5-28**] 09:35 PM
   Ceftazidime - [**2111-5-28**] 10:39 PM
   Infusions:
   Fentanyl (Concentrate) - 400 mcg/hour
   Midazolam (Versed) - 15 mg/hour
   Other ICU medications:
   Propofol - [**2111-5-28**] 11:30 AM
   Fentanyl - [**2111-5-28**] 04:00 PM
   Midazolam (Versed) - [**2111-5-28**] 06:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-5-29**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 35.9
C (96.7
   HR: 54 (54 - 101) bpm
   BP: 156/65(93) {113/62(83) - 190/99(127)} mmHg
   RR: 18 (17 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 72 Inch
             Total In:
                                                                  2,209 mL
                                                                    383 mL
   PO:
             TF:
                                                                    321 mL
                                                                     99 mL
   IVF:
                                                                  1,578 mL
                                                                    234 mL
   Blood products:
   Total out:
                                                                  1,380 mL
                                                                    810 mL
   Urine:
                                                                  1,380 mL
                                                                    810 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    829 mL
                                                                   -427 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 41 cmH2O
   Plateau: 25 cmH2O
   SpO2: 99%
   ABG: 7.51/41/99.[**Numeric Identifier **]/30/8
   Ve: 10.8 L/min
   PaO2 / FiO2: 250
   Physical Examination
   General: elderly obese man, intubated
   HEENT: Sclera anicteric, ET in place
   Neck: supple, JVP not assessible due to body habitus
   Lungs: Coarse breath sounds bilaterally, no wheezes
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, obese, non-distended, rare bowel sounds, no
   organomegaly
   Ext: Warm, well perfused, 1+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   204 K/uL
   8.6 g/dL
   147 mg/dL
   0.4 mg/dL
   30 mEq/L
   4.0 mEq/L
   15 mg/dL
   104 mEq/L
   141 mEq/L
   25.4 %
   4.9 K/uL
        [image002.jpg]
                             [**2111-5-27**]  03:30 AM
                             [**2111-5-27**]  03:36 AM
                             [**2111-5-27**]  03:57 PM
                             [**2111-5-27**]  06:06 PM
                             [**2111-5-28**]  03:41 AM
                             [**2111-5-28**]  06:12 AM
                             [**2111-5-28**]  10:18 AM
                             [**2111-5-28**]  01:30 PM
                             [**2111-5-29**]  03:13 AM
                             [**2111-5-29**]  03:28 AM
   WBC
   5.1
   4.3
   4.9
   Hct
   23.4
   24.7
   25.4
   Plt
   230
   206
   204
   Cr
   0.5
   0.5
   0.4
   TCO2
   29
   31
   30
   32
   31
   32
   34
   Glucose
   177
   234
   147
   Other labs: PT / PTT / INR:17.2/32.8/1.6, CK / CKMB /
   Troponin-T:32//<0.01, ALT / AST:51/57, Alk Phos / T Bili:80/1.8,
   Differential-Neuts:88.9 %, Lymph:5.8 %, Mono:3.5 %, Eos:1.6 %, Lactic
   Acid:1.8 mmol/L, LDH:779 IU/L, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:2.6
   mg/dL
   Assessment and Plan
   Mr. [**Known lastname 5979**] is a 57-year-old man with h/o ILD, recent admission for
   alveolar hemorrhage occurring after afib ablation, CAD, DM2, HTN who
   was transferred from [**Location (un) 206**] for hypoxia. He presented to OSH
   with hypoxia, was intubated.
   # Respiratory failure/Interstitial lung disease:  History of ILD and
   followed by Dr. [**Last Name (STitle) 104**].  Was treated with prednisone for ILD starting
   in [**2111-1-1**] and did have radiological and clinical improvement, but
   admitted with alveolar hemorrhage in [**2111-4-1**], thought to be
   secondary to vasculitis (though ANCA and [**Doctor First Name **] negative), resulting in
   course of prednisone and cyclophosphamide.   Now again with respiratory
   failure in setting of hemoptysis and productive cough per report.  Also
   re-started on coumadin in interim by cardiologist for afib.  Chest CT
   from [**5-24**] shows largely stable disease, diffuse ground glass opacities
   bilaterally.  Intubated for hypoxia and dyspnea.  Presumed vasculitic
   ILD (NSIP) although this is not certain.  Bronched on [**5-26**].  Hct from
   BAL < 2.
   - wean PEEP and FiO2 as tolerated
   - cont methyprednisolone 100 mg IV qd (started [**5-28**]; previously
   received  3x doses of 1g solumedrol) and bactrim ppx
   - continue cyclophosphamide
   - d/c vanc/ceftaz given neg bacterial cultures
   - f/u bronch cultures, growing fungus in prelim
   - check beta glucan and galacatamannan
   - poor candidate for surgical biopsy
   - f/u bcx from [**5-24**] (one set; anaerobic bottle growing bacteria,
   aerobic bottle with no growth); likely contaminant
   # Afib: currently in sinus rhythm, s/p recent PVI ablation. On sotalol.
   - hold warfarin given hemoptysis
   # HTN: Cont captopril.
   # Constipation/Ileus:  Will start po naloxone.
   # DM2:
   - insulin s.s.
   # Spinal stenosis:  has caused significant debilitation per Dr.
   [**Last Name (STitle) 104**].
   - pain management as needed when extubated
   # Communication: [**Name (NI) 6642**] son [**Name (NI) **] [**Telephone/Fax (1) 6643**] (c) [**Telephone/Fax (1) 6644**] (h);
   co-HCP wife [**Name (NI) 487**] [**Telephone/Fax (1) 6645**] (c); son [**Name (NI) 6646**] [**Telephone/Fax (1) 6647**] (c)
   ICU Care
   Nutrition:
   Ensure (Full) - [**2111-5-27**] 12:30 PM 20 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2111-5-25**] 05:06 AM
   20 Gauge - [**2111-5-27**] 08:00 AM
   PICC Line - [**2111-5-28**] 03:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2111-05-30 07:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2111-5-29**] 04:00 PM
   [**5-28**]
   - PICC placed
   [**5-29**]
   - weaned down on peep from 12 to 10 but became hypoxic, improved with
   recruitment maneuver, went up on peep to 15 and came back down
   afterward
   - sent beta glucan and galactamannan
   - stopped abx, cont steroids, cyclophos
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftazidime - [**2111-5-28**] 10:39 PM
   Vancomycin - [**2111-5-29**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 12 mg/hour
   Fentanyl (Concentrate) - 350 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2111-5-29**] 07:45 AM
   Fentanyl - [**2111-5-29**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-5-30**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.5
C (97.7
   HR: 62 (60 - 84) bpm
   BP: 131/77(97) {106/56(75) - 174/85(117)} mmHg
   RR: 16 (16 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,533 mL
                                                                    278 mL
   PO:
             TF:
                                                                    200 mL
   IVF:
                                                                  1,013 mL
                                                                    218 mL
   Blood products:
   Total out:
                                                                  2,560 mL
                                                                    555 mL
   Urine:
                                                                  2,560 mL
                                                                    555 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,027 mL
                                                                   -277 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 24 cmH2O
   SpO2: 99%
   ABG: 7.47/49/138/29/11
   Ve: 7.9 L/min
   PaO2 / FiO2: 345
   Physical Examination
   General: elderly obese man, intubated
   HEENT: Sclera anicteric, ET in place
   Neck: supple, JVP not assessible due to body habitus
   Lungs: Coarse breath sounds bilaterally, no wheezes
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, obese, non-distended, rare bowel sounds, no
   organomegaly
   Ext: Warm, well perfused, 1+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   205 K/uL
   9.2 g/dL
   102 mg/dL
   0.5 mg/dL
   29 mEq/L
   4.2 mEq/L
   17 mg/dL
   103 mEq/L
   141 mEq/L
   26.7 %
   4.3 K/uL
        [image002.jpg]
                             [**2111-5-28**]  06:12 AM
                             [**2111-5-28**]  10:18 AM
                             [**2111-5-28**]  01:30 PM
                             [**2111-5-29**]  03:13 AM
                             [**2111-5-29**]  03:28 AM
                             [**2111-5-29**]  12:05 PM
                             [**2111-5-29**]  05:59 PM
                             [**2111-5-29**]  10:05 PM
                             [**2111-5-30**]  03:21 AM
                             [**2111-5-30**]  05:13 AM
   WBC
   4.9
   4.3
   Hct
   25.4
   26.7
   Plt
   204
   205
   Cr
   0.4
   0.5
   TCO2
   32
   31
   32
   34
   35
   32
   34
   37
   Glucose
   147
   102
   Other labs: PT / PTT / INR:17.2/32.8/1.6, CK / CKMB /
   Troponin-T:32//<0.01, ALT / AST:51/57, Alk Phos / T Bili:80/1.8,
   Differential-Neuts:88.9 %, Lymph:5.8 %, Mono:3.5 %, Eos:1.6 %, Lactic
   Acid:1.8 mmol/L, LDH:779 IU/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.6
   mg/dL
   Assessment and Plan
   Mr. [**Known lastname 5979**] is a 57-year-old man with h/o ILD, recent admission for
   alveolar hemorrhage occurring after afib ablation, CAD, DM2, HTN who
   was transferred from [**Location (un) 206**] for hypoxia. He presented to OSH
   with hypoxia, was intubated.
   # Respiratory failure/Interstitial lung disease:  History of ILD and
   followed by Dr. [**Last Name (STitle) 104**].  Was treated with prednisone for ILD starting
   in [**2111-1-1**] and did have radiological and clinical improvement, but
   admitted with alveolar hemorrhage in [**2111-4-1**], thought to be
   secondary to vasculitis (though ANCA and [**Doctor First Name **] negative), resulting in
   course of prednisone and cyclophosphamide.   Now again with respiratory
   failure in setting of hemoptysis and productive cough per report.  Also
   re-started on coumadin in interim by cardiologist for afib.  Chest CT
   from [**5-24**] shows largely stable disease, diffuse ground glass opacities
   bilaterally.  Intubated for hypoxia and dyspnea.  Presumed vasculitic
   ILD (NSIP) although this is not certain.  Bronched on [**5-26**].  Hct from
   BAL < 2.
   - wean PEEP and FiO2 as tolerated
   - cont methyprednisolone 100 mg IV qd (started [**5-28**]; previously
   received  3x doses of 1g solumedrol) and bactrim ppx
   - continue cyclophosphamide
   - d/c vanc/ceftaz given neg bacterial cultures
   - f/u bronch cultures, growing fungus in prelim
   - check beta glucan and galacatamannan
   - poor candidate for surgical biopsy
   - f/u bcx from [**5-24**] (one set; anaerobic bottle growing bacteria,
   aerobic bottle with no growth); likely contaminant
   # Afib: currently in sinus rhythm, s/p recent PVI ablation. On sotalol.
   - hold warfarin given hemoptysis
   # HTN: Cont captopril.
   # Constipation/Ileus:  Will start po naloxone.
   # DM2:
   - insulin s.s.
   # Spinal stenosis:  has caused significant debilitation per Dr.
   [**Last Name (STitle) 104**].
   - pain management as needed when extubated
   # Communication: [**Name (NI) 6642**] son [**Name (NI) **] [**Telephone/Fax (1) 6643**] (c) [**Telephone/Fax (1) 6644**] (h);
   co-HCP wife [**Name (NI) 487**] [**Telephone/Fax (1) 6645**] (c); son [**Name (NI) 6646**] [**Telephone/Fax (1) 6647**] (c)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2111-5-25**] 05:06 AM
   20 Gauge - [**2111-5-27**] 08:00 AM
   PICC Line - [**2111-5-28**] 03:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2111-05-30 08:15:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: respiratory failure due to alveolar hemorrhage, improvement on the
   vent over the past 4-5 days
   24 Hour Events:
 SPUTUM CULTURE - At [**2111-5-29**] 04:00 PM
   Unable to wean PEEP yesterday though oxygenation improved this morning
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftazidime - [**2111-5-28**] 10:39 PM
   Vancomycin - [**2111-5-29**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 12 mg/hour
   Fentanyl (Concentrate) - 350 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-5-30**] 08:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.5
C (97.7
   HR: 62 (60 - 84) bpm
   BP: 131/77(97) {106/56(75) - 174/85(117)} mmHg
   RR: 16 (16 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,533 mL
                                                                    301 mL
   PO:
             TF:
                                                                    200 mL
   IVF:
                                                                  1,013 mL
                                                                    241 mL
   Blood products:
   Total out:
                                                                  2,560 mL
                                                                    555 mL
   Urine:
                                                                  2,560 mL
                                                                    555 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,027 mL
                                                                   -254 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 24 cmH2O
   SpO2: 99%
   ABG: 7.47/49/138/29/11
   Ve: 7.9 L/min
   PaO2 / FiO2: 345
   Physical Examination
   Intubated, sedated
   RRR
   Coarse vented bs
   Abd benign
   Extrem trace edema
   Labs / Radiology
   9.2 g/dL
   205 K/uL
   102 mg/dL
   0.5 mg/dL
   29 mEq/L
   4.2 mEq/L
   17 mg/dL
   103 mEq/L
   141 mEq/L
   26.7 %
   4.3 K/uL
        [image002.jpg]
                             [**2111-5-28**]  06:12 AM
                             [**2111-5-28**]  10:18 AM
                             [**2111-5-28**]  01:30 PM
                             [**2111-5-29**]  03:13 AM
                             [**2111-5-29**]  03:28 AM
                             [**2111-5-29**]  12:05 PM
                             [**2111-5-29**]  05:59 PM
                             [**2111-5-29**]  10:05 PM
                             [**2111-5-30**]  03:21 AM
                             [**2111-5-30**]  05:13 AM
   WBC
   4.9
   4.3
   Hct
   25.4
   26.7
   Plt
   204
   205
   Cr
   0.4
   0.5
   TCO2
   32
   31
   32
   34
   35
   32
   34
   37
   Glucose
   147
   102
   Other labs: PT / PTT / INR:17.2/32.8/1.6, CK / CKMB /
   Troponin-T:32//<0.01, ALT / AST:51/57, Alk Phos / T Bili:80/1.8,
   Differential-Neuts:88.9 %, Lymph:5.8 %, Mono:3.5 %, Eos:1.6 %, Lactic
   Acid:1.8 mmol/L, LDH:779 IU/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.6
   mg/dL
   Assessment and Plan
 HYPERTENSION, BENIGN
 cont antihypertensives
 DIFFUSE ALVEOLAR HEMMORHAGE (DAH)
 slowly wean steroids, cont
   cytoxan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 continue supportive care
   for now, replace versed and fent with propofol in anticipation of
   extubation within 2-3 days
 DIABETES MELLITUS (DM), TYPE II
 cont insulin
   h/o a-fib s/p ablation
 QTc long
 will hold sotolol and follow EKG
   ICU Care
   Nutrition: restart TFs
   Glycemic Control:
   Lines:
   Arterial Line - [**2111-5-25**] 05:06 AM
   20 Gauge - [**2111-5-27**] 08:00 AM
   PICC Line - [**2111-5-28**] 03:30 PM
   Prophylaxis:
   DVT: boots, sc hep
   Stress ulcer:  ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :  icu
   Total time spent:   39

2111-05-31 06:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2111-5-31**] 12:34 AM
   - wean sedation, change to prop vs fent
   - plan to wean steroids over  1 mo: 60 po x 1 wk, 40 x 1 wk, 20 x1 wk,
   15 x indefinately
   - decreased sotalol dose for elevated QTc
   - increased captopril
   - started tubefeeds
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftazidime - [**2111-5-28**] 10:39 PM
   Vancomycin - [**2111-5-29**] 08:00 AM
   Infusions:
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2111-5-31**] 03:30 AM
   Fentanyl - [**2111-5-31**] 03:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-5-31**] 06:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36
C (96.8
   HR: 86 (60 - 86) bpm
   BP: 162/79(105) {92/50(64) - 191/97(124)} mmHg
   RR: 18 (16 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,135 mL
                                                                    458 mL
   PO:
             TF:
             132 mL
   IVF:
                                                                    840 mL
                                                                    266 mL
   Blood products:
   Total out:
                                                                  2,435 mL
                                                                    550 mL
   Urine:
                                                                  2,435 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,300 mL
                                                                    -92 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   Plateau: 19 cmH2O
   Compliance: 61.1 cmH2O/mL
   SpO2: 100%
   ABG: 7.47/45/148/30/8
   Ve: 11.4 L/min
   PaO2 / FiO2: 370
   Physical Examination
   General: elderly obese man, intubated
   HEENT: Sclera anicteric, ET in place
   Neck: supple, JVP not assessible due to body habitus
   Lungs: Coarse breath sounds bilaterally, no wheezes
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, obese, non-distended, rare bowel sounds, no
   organomegaly
   Ext: Warm, well perfused, 1+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   219 K/uL
   9.9 g/dL
   114 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.9 mEq/L
   16 mg/dL
   100 mEq/L
   139 mEq/L
   28.5 %
   4.7 K/uL
        [image002.jpg]
                             [**2111-5-28**]  01:30 PM
                             [**2111-5-29**]  03:13 AM
                             [**2111-5-29**]  03:28 AM
                             [**2111-5-29**]  12:05 PM
                             [**2111-5-29**]  05:59 PM
                             [**2111-5-29**]  10:05 PM
                             [**2111-5-30**]  03:21 AM
                             [**2111-5-30**]  05:13 AM
                             [**2111-5-31**]  03:25 AM
                             [**2111-5-31**]  03:59 AM
   WBC
   4.9
   4.3
   4.7
   Hct
   25.4
   26.7
   28.5
   Plt
   [**Telephone/Fax (3) 6741**]
   Cr
   0.4
   0.5
   0.5
   TCO2
   32
   34
   35
   32
   34
   37
   34
   Glucose
   147
   102
   114
   Other labs: PT / PTT / INR:17.2/32.8/1.6, CK / CKMB /
   Troponin-T:32//<0.01, ALT / AST:51/57, Alk Phos / T Bili:80/1.8,
   Differential-Neuts:88.9 %, Lymph:5.8 %, Mono:3.5 %, Eos:1.6 %, Lactic
   Acid:1.0 mmol/L, LDH:779 IU/L, Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:4.0
   mg/dL
   Assessment and Plan
   Mr. [**Known lastname 5979**] is a 57-year-old man with h/o ILD, recent admission for
   alveolar hemorrhage occurring after afib ablation, CAD, DM2, HTN who
   was transferred from [**Location (un) 206**] for hypoxia. He presented to OSH
   with hypoxia, was intubated.
   # Respiratory failure/Interstitial lung disease:  History of ILD and
   followed by Dr. [**Last Name (STitle) 104**].  Underlying vasculitic ILD (NSIP) with acute
   decompensations attributed to DAH.  Bronched on [**5-26**].  Hct from BAL <
   2.
   - Vent: currently on propofol- still sedated and non responsive; weanm
   propofol and SBP
   - cont methyprednisolone 100 mg IV qd (started [**5-28**]; previously
   received  3x doses of 1g solumedrol) x1wk with weekly taper to 60 mg PO
   (start [**6-4**]), 40 mg, 20 mg and end at 15 mg daily.
   - continue cyclophosphamide
   - d/c vanc/ceftaz given neg bacterial cultures
   - f/u cultures, growing fungus in prelim
   - f/u beta glucan and galacatamannan
   # Afib: currently in sinus rhythm, s/p recent PVI ablation. On sotalol.
   - hold warfarin given hemoptysis
   - QTc 460, holding sotalol
   - daily ECG, when QTC<450, restart sotalol at 80 [**Hospital1 **]
   # HTN: increased captopril.
   # DM2:
   - insulin s.s.
   # Spinal stenosis:  has caused significant debilitation per Dr.
   [**Last Name (STitle) 104**].
   - pain management as needed when extubated
   # Communication: [**Name (NI) 6642**] son [**Name (NI) **] [**Telephone/Fax (1) 6643**] (c) [**Telephone/Fax (1) 6644**] (h);
   co-HCP wife [**Name (NI) 487**] [**Telephone/Fax (1) 6645**] (c); son [**Name (NI) 6646**] [**Telephone/Fax (1) 6647**] (c)
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2111-5-31**] 01:03 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2111-5-25**] 05:06 AM
   PICC Line - [**2111-5-28**] 03:30 PM
   20 Gauge - [**2111-5-30**] 12:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2111-05-31 07:53:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  sotolol stopped b/c prolonged QTc
   Propofol started
   24 Hour Events:
 SPUTUM CULTURE - At [**2111-5-31**] 12:34 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftazidime - [**2111-5-28**] 10:39 PM
   Vancomycin - [**2111-5-29**] 08:00 AM
   Infusions:
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2111-5-31**] 03:30 AM
   Fentanyl - [**2111-5-31**] 03:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-5-31**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36
C (96.8
   HR: 86 (60 - 86) bpm
   BP: 162/79(105) {92/50(64) - 191/97(124)} mmHg
   RR: 18 (16 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,135 mL
                                                                    581 mL
   PO:
             TF:
             175 mL
   IVF:
                                                                    840 mL
                                                                    346 mL
   Blood products:
   Total out:
                                                                  2,435 mL
                                                                    550 mL
   Urine:
                                                                  2,435 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,300 mL
                                                                     31 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   Plateau: 19 cmH2O
   Compliance: 61.1 cmH2O/mL
   SpO2: 100%
   ABG: 7.47/45/148/30/8
   Ve: 11.4 L/min
   PaO2 / FiO2: 370
   Physical Examination
   Intubated, sedated
   RRR
   Clear lungs
   Abd benign
   Extrem trace edema
   Labs / Radiology
   9.9 g/dL
   219 K/uL
   114 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.9 mEq/L
   16 mg/dL
   100 mEq/L
   139 mEq/L
   28.5 %
   4.7 K/uL
        [image002.jpg]
                             [**2111-5-28**]  01:30 PM
                             [**2111-5-29**]  03:13 AM
                             [**2111-5-29**]  03:28 AM
                             [**2111-5-29**]  12:05 PM
                             [**2111-5-29**]  05:59 PM
                             [**2111-5-29**]  10:05 PM
                             [**2111-5-30**]  03:21 AM
                             [**2111-5-30**]  05:13 AM
                             [**2111-5-31**]  03:25 AM
                             [**2111-5-31**]  03:59 AM
   WBC
   4.9
   4.3
   4.7
   Hct
   25.4
   26.7
   28.5
   Plt
   [**Telephone/Fax (3) 6741**]
   Cr
   0.4
   0.5
   0.5
   TCO2
   32
   34
   35
   32
   34
   37
   34
   Glucose
   147
   102
   114
   Other labs: PT / PTT / INR:17.2/32.8/1.6, CK / CKMB /
   Troponin-T:32//<0.01, ALT / AST:51/57, Alk Phos / T Bili:80/1.8,
   Differential-Neuts:88.9 %, Lymph:5.8 %, Mono:3.5 %, Eos:1.6 %, Lactic
   Acid:1.0 mmol/L, LDH:779 IU/L, Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:4.0
   mg/dL
   .
   CXR remarkably clear
   Assessment and Plan
 HYPERTENSION, BENIGN
 cont captopril,
 DIFFUSE ALVEOLAR HEMMORHAGE (DAH)
 infiltrates and oxygenation
   improved, wean steroids
 INTERSTITIAL LUNG DISEASE (ILD INCLUDING IPF, UIP, NSIP, DIP, LIP,
   ETC)
 not active, already on immunosuppression
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 will try SBT today,
   autodiuresing
 DIABETES MELLITUS (DM), TYPE II
 continue insulin
   A-fib
 restart sotolol once QTc shortens
   ICU Care
   Nutrition: hold TF
s for ? extubation
   Nutren 2.0 (Full) - [**2111-5-31**] 01:03 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2111-5-25**] 05:06 AM
   PICC Line - [**2111-5-28**] 03:30 PM
   20 Gauge - [**2111-5-30**] 12:15 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer:  ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent:   39

2111-06-01 07:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2111-5-31**] 09:40 AM
 INVASIVE VENTILATION - STOP [**2111-5-31**] 05:38 PM
   - Restarted sotalol, ECG order placed for tomorrow.
   - Increased captopril to 25 mg po tid
   - Extubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2111-5-29**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2111-5-31**] 10:00 PM
   Metoprolol - [**2111-6-1**] 02:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-6-1**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.7
C (98
   HR: 86 (81 - 115) bpm
   BP: 131/68(89) {131/68(89) - 180/114(133)} mmHg
   RR: 25 (8 - 32) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,222 mL
                                                                     75 mL
   PO:
             TF:
                                                                    214 mL
   IVF:
                                                                    829 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                  3,730 mL
                                                                    470 mL
   Urine:
                                                                  3,730 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,508 mL
                                                                   -395 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Standby
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 464 (425 - 464) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 32
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 65
   PIP: 11 cmH2O
   Plateau: 20 cmH2O
   SpO2: 94%
   ABG: 7.48/42/78.[**Numeric Identifier 7**]/30/6
   Ve: 16.1 L/min
   PaO2 / FiO2: 197
   Physical Examination
   General: elderly obese man, NAD
   HEENT: Sclera anicteric, ET in place
   Neck: supple, JVP not assessible due to body habitus
   Lungs: CTA, no wheezes
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, obese, non-distended, rare bowel sounds, no
   organomegaly
   Ext: Warm, well perfused, 1+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   211 K/uL
   10.4 g/dL
   98 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.6 mEq/L
   13 mg/dL
   103 mEq/L
   142 mEq/L
   30.4 %
   7.5 K/uL
        [image002.jpg]
                             [**2111-5-30**]  03:21 AM
                             [**2111-5-30**]  05:13 AM
                             [**2111-5-31**]  03:25 AM
                             [**2111-5-31**]  03:59 AM
                             [**2111-5-31**]  01:48 PM
                             [**2111-5-31**]  03:08 PM
                             [**2111-5-31**]  05:05 PM
                             [**2111-5-31**]  06:29 PM
                             [**2111-6-1**]  02:47 AM
                             [**2111-6-1**]  03:07 AM
   WBC
   4.3
   4.7
   7.5
   Hct
   26.7
   28.5
   30.4
   Plt
   [**Telephone/Fax (3) 6765**]
   Cr
   0.5
   0.5
   0.5
   TCO2
   37
   34
   30
   30
   31
   32
   32
   Glucose
   102
   114
   98
   Other labs: PT / PTT / INR:17.2/32.8/1.6, CK / CKMB /
   Troponin-T:32//<0.01, ALT / AST:51/57, Alk Phos / T Bili:80/1.8,
   Differential-Neuts:85.9 %, Lymph:9.0 %, Mono:3.3 %, Eos:1.6 %, Lactic
   Acid:1.0 mmol/L, LDH:779 IU/L, Ca++:9.2 mg/dL, Mg++:1.7 mg/dL, PO4:3.6
   mg/dL
   Assessment and Plan
   Mr. [**Known lastname 5979**] is a 57-year-old man with h/o ILD, recent admission for
   alveolar hemorrhage occurring after afib ablation, CAD, DM2, HTN who
   was transferred from [**Location (un) 206**] for hypoxia. He presented to OSH
   with hypoxia, was intubated.
   # Respiratory failure/Interstitial lung disease:  History of ILD and
   followed by Dr. [**Last Name (STitle) 104**].  Underlying vasculitic ILD (NSIP) with acute
   decompensations attributed to DAH.  Bronched on [**5-26**].  Hct from BAL <
   2. Extubated on [**2111-5-31**]
   - cont methyprednisolone 100 mg IV qd (started [**5-28**]; previously
   received  3x doses of 1g solumedrol) x1wk with weekly taper to 60 mg PO
   (start [**6-4**]), 40 mg, 20 mg and end at 15 mg daily.
   - continue cyclophosphamide
   - autodiuresing
   - d/c vanc/ceftaz given neg bacterial cultures
   - f/u cultures, growing fungus in prelim
   - f/u beta glucan and galacatamannan
   # Afib: currently in sinus rhythm, s/p recent PVI ablation.
   - IV lopresor for rate, change to sotalol when safe po
   - hold warfarin given hemoptysis
   # HTN: increased captopril.
   # DM2:
   - insulin s.s.
   # Spinal stenosis:  has caused significant debilitation per Dr.
   [**Last Name (STitle) 104**].
   - pain management as needed when extubated
   # FEN: advance diet
   # Communication: [**Name (NI) 6642**] son [**Name (NI) **] [**Telephone/Fax (1) 6643**] (c) [**Telephone/Fax (1) 6644**] (h);
   co-HCP wife [**Name (NI) 487**] [**Telephone/Fax (1) 6645**] (c); son [**Name (NI) 6646**] [**Telephone/Fax (1) 6647**] (c)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2111-5-25**] 05:06 AM
   PICC Line - [**2111-5-28**] 03:30 PM
   20 Gauge - [**2111-5-30**] 12:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2111-06-02 07:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Weaned to nasal cannula
   - Started nystatin for thrush
   - C/o gas pains, +flatus but no BM since 2 days ago
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-6-2**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 74 (65 - 111) bpm
   BP: 116/61(73) {92/45(55) - 118/68(80)} mmHg
   RR: 16 (12 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,090 mL
                                                                    154 mL
   PO:
                                                                    700 mL
                                                                     50 mL
   TF:
   IVF:
                                                                    390 mL
                                                                    104 mL
   Blood products:
   Total out:
                                                                  2,585 mL
                                                                    560 mL
   Urine:
                                                                  2,585 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,495 mL
                                                                   -406 mL
   Respiratory support
   O2 Delivery Device: 4L Nasal cannula
   SpO2: 97%
   Physical Examination
   General: elderly obese man, NAD,
   HEENT: Sclera anicteric, ET in place
   Neck: supple, JVP not assessible due to body habitus
   Lungs: CTA, no wheezes
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, obese, rare bowel sounds, no organomegaly
   Ext: Warm, well perfused, 1+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   179 K/uL
   11.2 g/dL
   90 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.9 mEq/L
   11 mg/dL
   101 mEq/L
   138 mEq/L
   30.6 %
   7.7 K/uL
        [image002.jpg]
                             [**2111-5-30**]  05:13 AM
                             [**2111-5-31**]  03:25 AM
                             [**2111-5-31**]  03:59 AM
                             [**2111-5-31**]  01:48 PM
                             [**2111-5-31**]  03:08 PM
                             [**2111-5-31**]  05:05 PM
                             [**2111-5-31**]  06:29 PM
                             [**2111-6-1**]  02:47 AM
                             [**2111-6-1**]  03:07 AM
                             [**2111-6-2**]  04:42 AM
   WBC
   4.7
   7.5
   7.7
   Hct
   28.5
   30.4
   30.6
   Plt
   [**Telephone/Fax (3) 6784**]
   Cr
   0.5
   0.5
   0.6
   TCO2
   37
   34
   30
   30
   31
   32
   32
   Glucose
   114
   98
   90
   Other labs: PT / PTT / INR:17.2/32.8/1.6, CK / CKMB /
   Troponin-T:32//<0.01, ALT / AST:51/57, Alk Phos / T Bili:80/1.8,
   Differential-Neuts:85.9 %, Lymph:9.0 %, Mono:3.3 %, Eos:1.6 %, Lactic
   Acid:1.0 mmol/L, LDH:779 IU/L, Ca++:9.0 mg/dL, Mg++:1.8 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
   Mr. [**Known lastname 5979**] is a 57-year-old man with h/o ILD, recent admission for
   alveolar hemorrhage occurring after afib ablation, CAD, DM2, HTN who
   was transferred from [**Location (un) 206**] for hypoxia. He presented to OSH
   with hypoxia, was intubated.
   # Respiratory failure/Interstitial lung disease:  History of ILD and
   followed by Dr. [**Last Name (STitle) 104**].  Underlying vasculitic ILD (NSIP) with acute
   decompensation of unclear precipitant. Hct from BAL <2 not c/w DAH.
   Extubated on [**2111-5-31**]. Abx discontinued [**2111-6-1**] given negative bacterial
   cultures; remaining afebrile.
   - cont methyprednisolone 100 mg IV qd (started [**5-28**]; previously
   received  3x doses of 1g solumedrol) x1wk with weekly taper to 60 mg PO
   (start [**6-4**]), 40 mg, 20 mg and end at 15 mg daily.
   - continue cyclophosphamide
   - cont bactrim ppx
   - f/u resp cultures, growing fungus in prelim
   - f/u beta glucan and galacatamannan
   - autodiuresing
   # Afib: currently in sinus rhythm, s/p recent PVI ablation.
   - Cont sotalol
   - Would not restart warfarin or aspirin given hemoptysis
   # HTN: Cont captopril, sotalol
   # DM2:
   - standing NPH 4 units [**Hospital1 **] with insulin s.s, metformin
   # Spinal stenosis:  has caused significant debilitation per Dr.
   [**Last Name (STitle) 104**].
   - pain management as needed when extubated
   # Thrush: Cont nystatin
   # Constipation: Aggressive bowel regimen
   # Restless legs syndrome: Ropinirole prn
   ICU Care
   Nutrition: Advance diet
   Glycemic Control:  ISS, will need to monitor FSG closely in setting of
   pred taper
   Lines:
   PICC Line - [**2111-5-28**] 03:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: [**Name (NI) 6642**] son [**Name (NI) **] [**Telephone/Fax (1) 6643**] (c)
   [**Telephone/Fax (1) 6644**] (h); co-HCP wife [**Name (NI) 487**] [**Telephone/Fax (1) 6645**] (c); son [**Name (NI) 6646**]
   [**Telephone/Fax (1) 6647**] (c)
   Code status: Full code
   Disposition: D/c to [**Hospital1 25**] today
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   resident for key portions of the services provided.  I agree with her
   note above, including assessment and plan.  PMH, SH, FH and ROS are
   unchanged from admission except where noted above.
   57 yo man with ILD (chronic, likely NSIP) and DAH/vasculitis now with
   ARDS on pulsed solumedrol/cytoxan. Started this course of
   solumedrol/cytoxan [**5-24**].
   Extubated5/31.
   Solumedrol 100 qd. Cytoxan 100mg qd.
   Exam sig for sitting up in stretcher chair. Speaking more easily.
   Crackles at lateral bases. NABS and abd soft NDNT. Trace peripheral
   edema. No rashes.
   Key issue is chronic respiratory failure with ILD now with superimposed
   DAH/vasculitis, readmitted to hospital with hypoxemic respiratory
   failure due to ARDS. The etiology of this exacerbation is unclear, as
   bronch did not reveal recurrent DAH (despite hemoptysis as outpatient
   prior to readmission) and all cultures have been negative. Was treated
   with antibiotics, but stopped since suspicion for infection is low.
   Continue prednisone with taper as outlined above.
   Mr [**Known lastname 5979**] SHOULD NOT BE ANTICOAGULATED because of his recent severe
   hemoptysis and DAH, regardless of his known afib.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2111-6-2**] 15:26 ------